US08497274B2
(iii) Production of N-(5-{[2-(acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}-2-fluorophenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide
To a solution of 2-chloro-3-(1-cyano-1-methylethyl)benzoic acid (156 mg, 0.697 mmol) in tetrahydrofuran (2 mL) were added oxalyl chloride (75 μL, 0.875 mmol) and N,N-dimethylformamide (20 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (2 mL). N-[6-(3-Amino-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide (200 mg, 0.584 mmol) was added to the solution, and the mixture was stirred at room temperature for 8 hr. The reaction mixture was diluted with ethyl acetate (20 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (20 mL) and saturated brine (20 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was successively purified by basic silica gel column chromatography (ethyl acetate/n-hexane=40/60→400/0) and silica gel column chromatography (ethyl acetate/n-hexane=70/30→100/0), and the obtained solution was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate to give the title compound (164 mg, 51%) as a white powder.

reactant | 2-chloro-3-(1-cyano-1-methylethyl)benzoic acid | 0.697 mmol, 156 mg | ClC1=C(C(=O)O)C=CC=C1C(C)(C)C#N | C11H10ClNO2
reactant | oxalyl chloride | 0.875 mmol, 75 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 20 μL | CN(C=O)C | C3H7NO
reactant | N-[6-(3-Amino-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]acetamide | 0.584 mmol, 200 mg | NC=1C=C(OC2=C(C3=C(N=C(S3)NC(C)=O)C=C2)C#N)C=CC1F | C16H11FN4O2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-{[2-(acetylamino)-7-cyano-1,3-benzothiazol-6-yl]oxy}-2-fluorophenyl)-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 164 mg, 51% | C(C)(=O)NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C=CC(=C(C2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O)F | C27H19ClFN5O3S
